US04822787
To a solution of (2S,4R)-4-hydroxy-2-methoxycarbonyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (178 g) in N,N-dimethylformamide (500 ml) were added imidazole (93.9 g) and t-butyldimethylsilyl chloride (93.9 g), and the mixture was stirred at ambient temperature for 14 hours. The reaction mixture was diluted with ethyl acetate (2.0 l) and washed in turn with water and brine, and then dried over magnesium sulfate. Removal of the solvent gave (2S,4R)-4-t-butyldimethylsilyloxy-2-methoxycarbonyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (260 g).

reactant | (2S,4R)-4-hydroxy-2-methoxycarbonyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 178 g | O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)OC | C14H16N2O7
reactant | imidazole | 93.9 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylsilyl chloride | 93.9 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | N,N-dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 2.0 l | C(C)(=O)OCC | C4H8O2
product | (2S,4R)-4-t-butyldimethylsilyloxy-2-methoxycarbonyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 260 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)OC | C20H30N2O7Si
